US05545636
[3-(4-Indol-1-yl-piperidin-1-yl)-propyl]-dimethylamine
A mixture of 1-N-[1-N-(3-chloro-propyl)-piperidin-4-yl]-indole (900 mg, 3.25 mmol), anhydrous potassium carbonate (440 mg, 3.25 mmol) and dimethylammonium hydrochloride (260 mg, 3.25 mmol) in absolute ethanol (10 mL) was refluxed for 6 hours, evaporated and suspended in water. The mixture was extracted with methylene chloride, dried over anhydrous potassium carbonate, and evaporated to yield 1 g of the desired compound (100% of theory).

reactant | 1-N-[1-N-(3-chloro-propyl)-piperidin-4-yl]-indole | 3.25 mmol, 900 mg | ClCCCN1CCC(CC1)N1C=CC2=CC=CC=C12 | C16H21ClN2
reactant | potassium carbonate | 3.25 mmol, 440 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylammonium hydrochloride | 3.25 mmol, 260 mg | Cl.C[NH2+]C
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | [3-(4-Indol-1-yl-piperidin-1-yl)-propyl]-dimethylamine | 1 g, 100% | N1(C=CC2=CC=CC=C12)C1CCN(CC1)CCCN(C)C | C18H27N3
